2189-04-18 10:05:00 Physician Attending Progress Note
Chief Complaint: low BP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 year old male admitted with UGI bleed, also episode of SVT as NG
   tube placed (Resolved w/adenosine/dilt)
   24 Hour Events:
   #Hct dropped 36-->27, got 2 units blood, repeat Hct 30 this morning
   #Continued diarrhea
   #EGD this morning in ICU: no esoph varices, blood clot in stomach,
   gastric non bleeding varices , ulcerated mass proximal to antrum. ,
   History obtained from Medical records
   Allergies:
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Hives;
   Oxaliplatin
   Rash; Lighthead
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2189-4-18**] 09:05 AM
   Fentanyl - [**2189-4-18**] 09:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-18**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.4
C (99.4
   HR: 88 (79 - 106) bpm
   BP: 112/74(84) {99/58(68) - 122/78(88)} mmHg
   RR: 11 (10 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 0 Inch
           Total In:
           1,518 mL
   PO:
           TF:
   IVF:
   768 mL
   Blood products:
   750 mL
   Total out:
                                                                    200 mL
                                                                    375 mL
   Urine:
                                                                    200 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                  1,143 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t)
   Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   141 K/uL
   94 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.3 mEq/L
   13 mg/dL
   109 mEq/L
   137 mEq/L
   30.0 %
   2.9 K/uL
        [image002.jpg]
                             [**2189-4-18**]  03:54 AM
   WBC
   2.9
   Hct
   30.0
   Plt
   141
   Cr
   0.6
   Glucose
   94
   Other labs: PT / PTT / INR:13.0/26.6/1.1, ALT / AST:23/24, Alk Phos / T
   Bili:60/1.6, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   #UGI bleed/acute blood loss anemia: source appears to be new ulcerated
   mass found on EGD. Continue serial Hct's and supportive care, PPI. Can
   advance to clears .
   #Metastatic colon CA: had been responding to chemo, but new EGD
   findings concerning. D/w onc.
   #Recent SVT: since in SR, no add'l interventions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-4-18**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2189-04-19 07:51:00 Physician Resident Progress Note
Chief Complaint: 51 year old man with hx of metastatic colon cancer s/p
   left hemicolectomy c/b chemotherapy induced diarrhea presenting with
   acute GI bleed.
   24 Hour Events:
 ENDOSCOPY - At [**2189-4-18**] 09:03 AM
   Endoscopy 0830-0850. Pt received total fentanyl 75mcg, versed 2mg and
   NS 750ml during procedure. Pt tolerated procedure well, VS remained
   stable per flowsheet. Pt remained free of s/s distress. Pt now A+OX3,
   reports comfortable, denies pain, remains free of distress. Endoscopy
   showed ulcerated mass in stomach, no visible vessel or active bleeding.
   No biopsy taken.
   Plan to  ct scan chest / abd / pelvis to workup probable met focus in
   stomach of colon cancer
   svt x 2 (up to 200s) ? a tach vs avnrt.  carotid massage broke.  also
   chased w/ iv 5 mg metoprolol and started on 12.5 mg po bid
   Allergies:
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Hives;
   Oxaliplatin
   Rash; Lighthead
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2189-4-18**] 09:05 AM
   Fentanyl - [**2189-4-18**] 09:05 AM
   Pantoprazole (Protonix) - [**2189-4-19**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies pain, admits to feeling overwhelmed and
   anxious. Continues to have melena, but decreased in amount and
   frequency.
   Flowsheet Data as of  [**2189-4-19**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 83 (73 - 106) bpm
   BP: 96/60(68) {59/12(25) - 122/78(85)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 0 Inch
           Total In:
                                                                  1,840 mL
                                                                     17 mL
   PO:
                                                                    250 mL
           TF:
   IVF:
                                                                    840 mL
                                                                     10 mL
   Blood products:
                                                                    750 mL
                                                                      7 mL
   Total out:
                                                                  1,520 mL
                                                                    395 mL
   Urine:
                                                                  1,520 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                   -378 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL, no scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), RRR, no MRG
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, well healed surgical
   scars
   Extremities: No edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   135 K/uL
   8.5 g/dL
   98 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.1 mEq/L
   14 mg/dL
   106 mEq/L
   137 mEq/L
   23.9 %
   2.1 K/uL
        [image002.jpg]
                             [**2189-4-18**]  03:54 AM
                             [**2189-4-18**]  09:02 AM
                             [**2189-4-18**]  02:26 PM
                             [**2189-4-18**]  09:08 PM
                             [**2189-4-19**]  03:24 AM
   WBC
   2.9
   2.1
   Hct
   30.0
   28.5
   28.2
   26.6
   23.9
   Plt
   141
   135
   Cr
   0.6
   0.6
   Glucose
   94
   98
   Other labs: PT / PTT / INR:13.0/26.6/1.1, ALT / AST:23/24, Alk Phos / T
   Bili:60/1.6, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   EGD [**4-18**]:
   No esophageal varices.
   Varices at the stomach
   A large ulcerated mass lesion was seen in the region of the angularis
   (distal body/prox antrum). No visible vessel, oozing or active bleeding
   was seen.
   Blood in the stomach
   Otherwise normal EGD to second part of the duodenum
   Assessment and Plan
   51 year old man with hx of metastatic colon cancer s/p left
   hemicolectomy c/b chemotherapy induced diarrhea presenting with acute
   GI bleed.
   Acute blood loss anemia secondary to upper GI bleed: likely proximal
   source in stomach or proximal duodenum (ulcer, mucositis, AVM) no
   systemic manifestations of chronic liver disease to raise variceal
   risk. hemodynamically stable despite notable Hct drop.  also unable to
   clear lavage after additional 1L of sterile water.
   - q6Hct until stable
   - transfused second unit of pRBC, pt bumped appropriately with 2 stable
   Hcts.
   - GI recs appreciated, no plans for re-scope at present.  Will CT torso
   to evaluate extend and possible origin of mass. Pt has known pancreatic
   mass which may be encroaching on stomach.
   - PPI IV bid
   - add-on LFTs WNL other than mildly elevated TB.
   Tachycardia: narrow complex tachy regular (AVRT, AVNRT) currently well
   controlled following IVF and blood transfusion.
   - continue to monitor
   - if recurs would consult EP service
   - Avoid BB as would blunt response to possible future bleeds/
   Colon cancer: oncology service aware of admission.
   - follow-up onc recs
   -Recommend CT torso, consider calling rad onc or IR if bleeding
   persists.
   -Awaiting return of pt
s primary oncologist to continue discussion of
   goals of care.
   Cold sores: likely HSV >> mucositis
   - can monitor for now given minimal symptoms
   ICU Care
   Nutrition:
   Clears tonight, advance in am if HCT stable.
   Glycemic Control: Blood sugar well controlled
   Lines:
   18 Gauge - [**2189-4-17**] 10:43 PM x 2
   Prophylaxis:
   DVT: Boots, no heparin for bleed
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, can call out in am if HCT and VSS

2189-04-19 13:06:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 year old male with metastatic colon CA admitted with UGI bleed and
   acute blood loss anemia
   24 Hour Events:
   *Endoscopy: ulcerated fungating  mass in stomach
   *Continued melana with Hct drop  requiring 1 additional unit of blood
   transfusion
   *SVT at 2am- responded to carotid massage
   Allergies:
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Hives;
   Oxaliplatin
   Rash; Lighthead
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-4-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-19**] 01:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 85 (73 - 97) bpm
   BP: 101/61(71) {59/12(25) - 109/78(83)} mmHg
   RR: 13 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 0 Inch
           Total In:
                                                                  1,840 mL
                                                                    385 mL
   PO:
                                                                    250 mL
           TF:
   IVF:
                                                                    840 mL
                                                                     10 mL
   Blood products:
                                                                    750 mL
                                                                    375 mL
   Total out:
                                                                  1,520 mL
                                                                    395 mL
   Urine:
                                                                  1,520 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   135 K/uL
   98 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.1 mEq/L
   14 mg/dL
   106 mEq/L
   137 mEq/L
   25.3 %
   2.1 K/uL
        [image002.jpg]
                             [**2189-4-18**]  03:54 AM
                             [**2189-4-18**]  09:02 AM
                             [**2189-4-18**]  02:26 PM
                             [**2189-4-18**]  09:08 PM
                             [**2189-4-19**]  03:24 AM
                             [**2189-4-19**]  10:25 AM
   WBC
   2.9
   2.1
   Hct
   30.0
   28.5
   28.2
   26.6
   23.9
   25.3
   Plt
   141
   135
   Cr
   0.6
   0.6
   Glucose
   94
   98
   Other labs: PT / PTT / INR:13.0/26.6/1.1, ALT / AST:23/24, Alk Phos / T
   Bili:60/1.6, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   51 year old male metastatic colon ca admitted  with UGI bleed/acute
   blood loss anemia
   GI bleed/acute blood loss
 transfused 1 unit over past 24
   hours.Unclear if bleeding has stopped
   *Spoke with GI: possible that fungating ulcerating mass is connected to
   previously seen abd mass- obtain abdominal CT for further eval. If
   unrevealing, ? re-bx
   *Continue supportive care, serial hct
   *Leukopenia, potentially dilutional: check diff
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2189-4-18**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2189-04-20 07:55:00 Physician Resident Progress Note
Chief Complaint: 51 year old man with hx of metastatic colon cancer s/p
   left hemicolectomy c/b chemotherapy induced diarrhea presenting with
   acute GI bleed.
   24 Hour Events:
   -Transfused yesterday am
   -HCT stable, responded appropriately. Over 24 hours:
   23.9->25.3->26.6->24.6->24.5
   -CT torso confirmed mass is contiguous with pancreas
   -Tolerated clears
   -WBC going down, ANC 840 today
   Allergies:
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Hives;
   Oxaliplatin
   Rash; Lighthead
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-4-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-20**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 71 (66 - 89) bpm
   BP: 101/72(79) {89/45(58) - 111/73(81)} mmHg
   RR: 11 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 0 Inch
             Total In:
                                                                    485 mL
                                                                     10 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,305 mL
                                                                    430 mL
   Urine:
                                                                  1,305 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -820 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   8.8 g/dL
   81 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.4 mEq/L
   11 mg/dL
   103 mEq/L
   135 mEq/L
   24.5 %
   1.8 K/uL
        [image002.jpg]
                             [**2189-4-18**]  03:54 AM
                             [**2189-4-18**]  09:02 AM
                             [**2189-4-18**]  02:26 PM
                             [**2189-4-18**]  09:08 PM
                             [**2189-4-19**]  03:24 AM
                             [**2189-4-19**]  10:25 AM
                             [**2189-4-19**]  03:46 PM
                             [**2189-4-19**]  10:52 PM
                             [**2189-4-20**]  04:36 AM
   WBC
   2.9
   2.1
   1.8
   Hct
   30.0
   28.5
   28.2
   26.6
   23.9
   25.3
   26.6
   24.6
   24.5
   Plt
   141
   135
   144
   Cr
   0.6
   0.6
   0.6
   Glucose
   94
   98
   81
   Other labs: PT / PTT / INR:12.8/25.6/1.1, ALT / AST:23/24, Alk Phos / T
   Bili:60/1.6, Differential-Neuts:43.0 %, Band:0.0 %, Lymph:44.0 %,
   Mono:3.0 %, Eos:7.0 %, Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.6
   mg/dL, PO4:3.2 mg/dL
   Imaging: CT torso: IMPRESSION:
   1. Compared to prior exam from [**2189-2-5**], there is slight
   increase in
   the size of poorly defined pancreatic mass.
   2. Marginal increase in size of Left supraclavicular/retroperitoneal
   lymphadenopathy, hepatic lesions, and left lower lobe metastatic
   lesion.
   3. Chronic occlusion of the splenic vein/artery and SMV, with extensive
   network of varices as described above.
   Microbiology: No micro
   Assessment and Plan
   51 year old man with hx of metastatic colon cancer s/p left
   hemicolectomy c/b chemotherapy induced diarrhea presenting with acute
   GI bleed.
   # Acute blood loss anemia secondary to upper GI bleed: Large ulcerated
   mass at angularis and gastric varices.  No visible source to be
   intervened on.  Hemodynamically stable despite notable Hct drop.  Still
   with maroon stools, though much less frequent at this point (was q1H
   now 3 in the last 24 hours).
   - Q8Hct today.  Tx to greater than 21 or if there is significant drop.
   Now s/p three units total since admission
   - GI recs appreciated, plan for biopsy of the mass tomorrow.  CT torso
   showing splenic vein, artery and SMV obliterated with SMA encased by
   mass.  Also with enlarged pancreatic mass.
   - Onc recommended consider calling IR if bleeding persists.
   - PPI IV bid, change to PO BID today
   - Add-on LFTs WNL other than mildly elevated TBili.
   # Tachycardia: narrow complex tachy regular (AVRT, AVNRT) currently
   well controlled following IVF and blood transfusion.
   - Continue to monitor
   - Restarted on low dose BB
   - If recurs could consider consult EP service
   # Colon cancer: Oncology service aware of admission.
   -Follow-up onc recs
   -Awaiting return of pt
s primary oncologist to continue discussion of
   goals of care.
   # Leukopenia: Patient now with decreasing WBC since admission.  ANC of
   840 on labs this am. Patient currently receiving q2 week irinotecan as
   of [**2189-3-30**].  Last was on [**4-14**].
   - Continue to monitor ANC
   - Will touch base with onc as to whether his leukopenia is expected at
   this point.
   # Cold sores: likely HSV >> mucositis
   - can monitor for now given minimal symptoms
   ICU Care
   Nutrition:
   Clear liquids, advancing to full diet today
   Glycemic Control:  Adequate
   Lines:
   18 Gauge - [**2189-4-18**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI [**Hospital1 **] IV
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2189-04-20 10:06:00 Physician Attending Progress Note
Chief Complaint: Gi bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo male with colon CA metastatic to liver, pancreas, lung admitted
   with UGI bleed, transient SVT. EGD with large ulcerated mass in
   stomach.
   24 Hour Events:
   #CT abdomen
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   Hives;
   Oxaliplatin
   Rash; Lighthead
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-4-20**] 12:00 AM
   Other medications:
   klonipin qd, lopressor 12.5 mg /day
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-20**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 67 (66 - 89) bpm
   BP: 99/67(74) {89/45(58) - 111/73(81)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 0 Inch
             Total In:
                                                                    485 mL
                                                                    250 mL
   PO:
                                                                    100 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,305 mL
                                                                    430 mL
   Urine:
                                                                  1,305 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -820 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant), No(t) S3, No(t) S4, No(t) Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   8.8 g/dL
   144 K/uL
   81 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.4 mEq/L
   11 mg/dL
   103 mEq/L
   135 mEq/L
   24.5 %
   1.8 K/uL
        [image002.jpg]
                             [**2189-4-18**]  03:54 AM
                             [**2189-4-18**]  09:02 AM
                             [**2189-4-18**]  02:26 PM
                             [**2189-4-18**]  09:08 PM
                             [**2189-4-19**]  03:24 AM
                             [**2189-4-19**]  10:25 AM
                             [**2189-4-19**]  03:46 PM
                             [**2189-4-19**]  10:52 PM
                             [**2189-4-20**]  04:36 AM
   WBC
   2.9
   2.1
   1.8
   Hct
   30.0
   28.5
   28.2
   26.6
   23.9
   25.3
   26.6
   24.6
   24.5
   Plt
   141
   135
   144
   Cr
   0.6
   0.6
   0.6
   Glucose
   94
   98
   81
   Other labs: PT / PTT / INR:12.8/25.6/1.1, ALT / AST:23/24, Alk Phos / T
   Bili:60/1.6, Differential-Neuts:43.0 %, Band:0.0 %, Lymph:44.0 %,
   Mono:3.0 %, Eos:7.0 %, Albumin:3.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.6
   mg/dL, PO4:3.2 mg/dL
   Imaging: CT torso: compared to [**2-6**] increased  pancreatic mass,
   increased retroperitoneal LAD, occlusion SMV/varices, lung lesions
   Assessment and Plan
   51 year old male with metastatic colon CA admitted w/UGI bleed/gastric
   mass and acute blood loss anemia.
   #Gi bleed/acute blood loss anemia: no need for transfusion over past 24
   hours. Bleed appears to be decreasing. Continue protonix but change to
   po. GI plans for EGD tomorrow to biopsy gastric mass.
   #Transient SVT: no further recurrence. Continue beta-blocker
   #Leukopenia: cause unclear ?med-induced. Will d/w Onc
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-4-18**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes